US07098240B2
g) 3-[(Aminocarbonyl)amino-5-(1-benzothien-3-yl)thiophene-2-carboxamide
3-[(Aminocarbonyl)amino-5-bromothiophene-2-carboxamide (0.222 g) and 1-benzothien-3-ylboronic acid (0.449 g) were sonicated in 1,2-dimethoxyethane (15 ml) and saturated aqueous sodium hydrogen carbonate solution (3.5 ml) and purged with argon. Tetrakis(triphenylphosphine)-palladium (95 mg) was added and the mixture was heated at reflux with stirring for 4.5 h, then allowed to cool and stirred at room temperature overnight. The solution was filtered and washed through with 1,2-dimethoxyethane and water. The filtrate was concentrated in vacuo and taken up in dichloromethane (20 ml) and saturated aqueous sodium hydrogen carbonate solution (20 ml). The solid product was collected by filtration, washed with dichloromethane, water, diethyl ether and dried (226 mg).

reactant | (Aminocarbonyl)amino-5-bromothiophene-2-carboxamide | 0.222 g | NC(=O)NC1=C(SC(=C1)Br)C(=O)N | C6H6BrN3O2S
reactant | 1-benzothien-3-ylboronic acid | 0.449 g | S1C=C(C2=C1C=CC=C2)B(O)O | C8H7BO2S
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | (Aminocarbonyl)amino-5-(1-benzothien-3-yl)thiophene-2-carboxamide | NC(=O)NC1=C(SC(=C1)C1=CSC2=C1C=CC=C2)C(=O)N | C14H11N3O2S2
